US06376655B1
9.18 g (0.067 mol) of 4-aminobenzoic acid (Merck, purum) was placed in a 250 mL one-necked round flask with a magnetic stirring bar and 100 mL of glacial acetic acid was added causing a light yellow solution. After 20 minutes 7.21 g (0.067 mol) of nitrosobenzene (Fluka, purum) was added in one portion immediately forming a green solution with particles. Stirring at room temperature was continued for 16 h. The formed metal shining precipitate was filtered off and washed once with 50 mL of cold glacial acetic acid and twice with 100 mL of cold water. The orange precipitate was dissolve in a hot mixture of 200 mL of ethanol and 20 mL of water. After cooling, filtration and 15 h drying under vacuum at 60° C. 10.96 g (72% yield) of [4-(phenylazo)phenyl]-methanoic acid was obtained.

reactant | 4-aminobenzoic acid | 0.067 mol, 9.18 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | nitrosobenzene | 0.067 mol, 7.21 g | N(=O)C1=CC=CC=C1 | C6H5NO
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | [4-(phenylazo)phenyl]-methanoic acid | 10.96 g, 72% yield | C1(=CC=CC=C1)N=NC1=CC=C(C=C1)C(=O)O | C13H10N2O2
